US05521179
2-[3-(4-Aminobenzoylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a suspension of 2-[3-(4-nitrobenzoylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.38 g) in ethanol (20 mL), was added tin(II) chloride dihydrate (0.79 g). This mixture was heated to reflux for 1 h then cooled to ambient temperature. The reaction mixture was poured into water and the pH adjusted to 7-8 with saturated sodium bicarbonate. The aqueous layer was extracted with ethyl acetate, and the organic extract washed (water, brine), dried (magnesium sulfate), and evaporated. The crude solid was triturated with diethyl ether:hexane (1:1), then further purified by chromatography, eluting with dichloromethane:methanol (gradient, 99.5:0.5, 99:1, 98.5:1.5), to give the title compound as a pale yellow solid; TLC: Rf =0.32, dichloromethane:methanol (98:2); MS: m/z=515(M+1).

reactant | 2-[3-(4-nitrobenzoylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.38 g | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1 | C26H23F3N4O6
reactant | tin(II) chloride dihydrate | 0.79 g | O.O.[Sn](Cl)Cl
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[3-(4-Aminobenzoylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC1=CC=C(C(=O)NC=2C(N(C(=CC2)C2=CC=CC=C2)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O)C=C1 | C26H25F3N4O4
